US06310211B1
5-chloro-8-hydroxy-2-methyl-N-(3-phenylpropyl)-7-quinolinecarboxamide
To a solution of 5-chloro-8-hydroxy-2-methyl-7-quinolinecarboxylic acid (0.500 g) and 3-phenylpropylamine (0.33 mL) in 20 mL DMF is added EDC hydrochloride (0.444 g) and hydroxybenzotriazole hydrate (0.312 g). The reaction is stirred at room temperature for 48 h. The mixture is then partitioned between EtOAc and water. The aqueous layer is extracted with EtOAc (3×). The combined organic layers are washed with brine (1×), dried over sodium sulfate and condensed. The residue is stirred in 20 mL 1:1 THF/1N HCl overnight. The solution is neutralized with saturated aqueous NaHCO3. The reaction is partitioned between EtOAc and water. The aqueous layer is extracted with EtOAc (3×). The combined organic layers are washed with brine (1×), dried and condensed. The crude product is chromatographed on silica, eluting with 3% MeOH/CH2Cl2. Fractions homogeneous by TLC are combined and condensed. The residue taken up in a minimal amount of CH2Cl2. Toluene is added to the solution and the mixture is sonicated while adding hexanes until a white solid formed. The solid is collected and dried to yield 0.310 g of the title product as a white solid.

reactant | 5-chloro-8-hydroxy-2-methyl-7-quinolinecarboxylic acid | 0.500 g | ClC1=C2C=CC(=NC2=C(C(=C1)C(=O)O)O)C | C11H8ClNO3
reactant | 3-phenylpropylamine | 0.33 mL | C1(=CC=CC=C1)CCCN | C9H13N
reactant | EDC hydrochloride | 0.444 g | CCN=C=NCCCN(C)C.Cl
reactant | hydroxybenzotriazole hydrate | 0.312 g | O.OC1=CC=CC=2NN=NC21
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-chloro-8-hydroxy-2-methyl-N-(3-phenylpropyl)-7-quinolinecarboxamide | 0.310 g | ClC1=C2C=CC(=NC2=C(C(=C1)C(=O)NCCCC1=CC=CC=C1)O)C | C20H19ClN2O2
